### PR TITLE
feat(locallynameless): signature of fv theorems 

### PR DESCRIPTION
**Pull request by lengyijun**
This PR refactors several free‑variable (`fv`) lemmas in the Locally Nameless Lambda Calculus library to make the API more uniform, algebraic, and easier to use. The changes focus on replacing negative‑membership lemmas with equalities of `fv` sets, consolidating redundant lemmas, and updating downstream proofs accordingly.

---

### 1. Rename and consolidate closing lemmas
- `close_preserve_not_fvar` is replaced with the more general and consistently named  
  **`close_rec_fv`**, which states the same property using a cleaner proof structure  
- The old `close_var_not_fvar_rec` and its specialization are removed.  
  A simpler lemma **`close_var_not_fvar`** now derives directly from `close_rec_fv`  

### 2. Strengthen theorem signatures for opening and substitution
Several lemmas now express **equalities of free‑variable sets** instead of  
“`x ∉ …`”‑style statements:

- **`open_preserve_not_fvar`** now states that opening yields either  
  ```
  m⟦k ↝ n⟧.fv = m.fv ∪ n.fv
  ```
  or  
  ```
  m⟦k ↝ n⟧.fv = m.fv
  ```  
  replacing the previous negative‑membership lemma  

- **`subst_preserve_not_fvar`** now characterizes substitution via:  
  ```
  (m[y := n]).fv = m.fv.erase y ∪ n.fv
  ```  
  again replacing a negated membership lemma with a structural equality  

These equalities are more compositional and better suited for downstream reasoning.

### 3. Update dependent proofs
Proofs that relied on the old lemma names or signatures—particularly in  
`open_close_to_subst`—are updated to use:

- `close_rec_fv` instead of the removed lemma  
- the new `open_preserve_not_fvar` signature  
- the updated `subst_preserve_not_fvar` behavior  

### 5. Minor cleanup
- Adds `@[scoped grind]` annotations for consistency.  
- Slightly reorganizes lemma order for readability.

Aggregation of #579, #585 and #586

PR description is generated by Copilot

### CODE REVIEW

**Comment by lengyijun** [comment]
Some theorems need renaming, that is out of my scope

I only rename one theorem to avoid overly long lines.

**Comment by lengyijun** [comment]
I think all fv-related theorems have been fixed here.

**Comment by lengyijun** [comment]
Hope for Performance Profiling

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean [hunk 1]
```diff
@@ -98,13 +98,13 @@ lemma redex_subst_cong (s s' : Term Var) (x y : Var) (step : s ⭢βᶠ s') :
...
 /-- An β-reduction step does not introduce new free variables. -/
-lemma step_not_fv (step : M ⭢βᶠ N) (hw : w ∉ M.fv) : w ∉ N.fv := by
+lemma step_not_fv (step : M ⭢βᶠ N) : N.fv ⊆ M.fv := by
   induction step with
   | base h => cases h with | beta => grind [open_preserve_not_fvar]
   | abs =>
     have ⟨x, _⟩ := fresh_exists <| free_union [fv] Var
     have := open_close x
-    grind [close_preserve_not_fvar, open_preserve_not_fvar]
+    grind [open_preserve_not_fvar]
```
Comment (lengyijun) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean]: Should we keep origin grind list at this pr ?

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/Properties.lean [hunk 2]
```diff
@@ -47,27 +47,24 @@ lemma swap_open_fvar_close (k n : ℕ) (x y : Var) (m : Term Var) (neq₁ : k 
...
-    x ∉ (m⟦k ↝ n⟧).fv := by
+theorem open_preserve_not_fvar (k) (m n : Term Var) :
+    m⟦k ↝ n⟧.fv = m.fv ∪ n.fv ∨ m⟦k ↝ n⟧.fv = m.fv := by
   induction m generalizing k <;> grind
 
 /-- Substitution preserves free variables. -/
-lemma subst_preserve_not_fvar {x y : Var} (m n : Term Var) (nmem : x ∉ m.fv ∪ n.fv) :
-    x ∉ (m [y := n]).fv := by
+lemma subst_preserve_not_fvar {y : Var} (m n : Term Var) :
+    (m [y := n]).fv = (m.fv.erase y) \/ (m [y := n]).fv = (m.fv.erase y) ∪ n.fv:= by
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/Properties.lean]:
```suggestion
    m [y := n].fv = m.fv.erase y ∨ m [y := n].fv = m.fv.erase y ∪ n.fv:= by
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/Properties.lean [hunk 3]
```diff
@@ -128,11 +125,12 @@ lemma open_close_to_subst (m : Term Var) (x y : Var) (k : ℕ) (m_lc : LC m) :
     m ⟦k ↜ x⟧⟦k ↝ fvar y⟧ = m [x := fvar y] := by
   induction m_lc generalizing k with
   | abs xs t =>
+    unfold closeRec openRec
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/Properties.lean]: I'm not sure if this is an improvement if this now requires unfolding, is there another way to write this?

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean [hunk 4]
```diff
@@ -98,13 +98,13 @@ lemma redex_subst_cong (s s' : Term Var) (x y : Var) (step : s ⭢βᶠ s') :
...
-lemma step_not_fv (step : M ⭢βᶠ N) (hw : w ∉ M.fv) : w ∉ N.fv := by
+lemma step_not_fv (step : M ⭢βᶠ N) : N.fv ⊆ M.fv := by
   induction step with
   | base h => cases h with | beta => grind [open_preserve_not_fvar]
-  | abs =>
+  | @abs M N =>
     have ⟨x, _⟩ := fresh_exists <| free_union [fv] Var
     have := open_close x
-    grind [close_preserve_not_fvar, open_preserve_not_fvar]
+    grind [open_preserve_not_fvar 0 M N]
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean:107]: I pushed a change here based on the fact that `linter.tacticAnalysis.verifyGrindOnly` now fails here.

**Comment by lengyijun** [comment]
@chenson2018 Ready for review

**Comment by chenson2018** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/cslib/commits/4532a02c440e8d90d717b0de1829bc5a47866beb?reference=107a51dd89f29c62c99d16b4c38d23d3b38bdc28) for 4532a02c440e8d90d717b0de1829bc5a47866beb against 107a51dd89f29c62c99d16b4c38d23d3b38bdc28 are in. No significant results found. @chenson2018

- 🟥 `build//instructions`: **+542.8M** (**+0.03%**)

**Small changes (1🟥)**

- 🟥 `build/module/Cslib.Languages.LambdaCalculus.LocallyNameless.Untyped.FullBetaEtaConfluence//instructions`: **+582.9M** (**+4.84%**)

**Review by chenson2018 — APPROVED** [review]
Thank you!
